US06780950B2
Synthesis of 1-Trimethylsilyl Ethynyl Naphthalene [M-29]
Under an argon atmosphere, 50 g (0.241 mol) of 1-bromonaphthalene, 2.5 g (3.6 mmol) of bis(triphenylphosphine)palladium(II) dichloride and 0.68 g (3.6 mmol) of copper Iodide were dissolved in 500 ml of diisopropylamine in a 1 L 3-necked flask equipped with a stirrer, thermometer and reflux condenser. 35.6 g (0.362 mol) of trimethylsilyl acetylene was slowly dropped into the resulting mixture at room temperature. The reaction mixture was slowly heated to 80° C. and refluxed 12 hours. After the reaction was completed, the reaction mixture was cooled down to room temperature. The precipitated salt was filtered off, and the solvent was removed from the filtrate under a reduced pressure. The residue was dissolved in methylene chloride. The organic layer was washed with water several times and then dried with anhydrous magnesium sulfate. The solvent was removed, to obtain a liquid. The obtained liquid was purified by silica gel column chromatography using hexane as an eluent, to give a colorless viscous liquid. The liquid was recrystallized from ethanol to give white crystal in needle-shape. The white crystal was recovered and then sufficiently dried at room temperature, to give 48 g (88.9% yield) of the desired product having a melting point of 41-43° C.

reactant | 1-bromonaphthalene | 0.241 mol, 50 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | trimethylsilyl acetylene | 0.362 mol, 35.6 g | C[Si](C)(C)C#C | C5H10Si
solvent | diisopropylamine | 500 ml | C(C)(C)NC(C)C | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 3.6 mmol, 2.5 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper Iodide | 3.6 mmol, 0.68 g | [Cu](I)I
product | 1-Trimethylsilyl Ethynyl Naphthalene | 48 g, 88.9% yield | C[Si](C#CC1=CC=CC2=CC=CC=C12)(C)C | C15H16Si
